US07776869B2
A resealable tube was charged with a solution of 2-chloro-5-bromopyrimidine (1.00 g, 5.17 mmol), N-(2-aminoethyl)morpholine (0.808 g, 6.20 mmol), diisopropylethylamine (0.801 g, 1.1 mL, 6.20 mmol), and THF (40 mL). The mixture was heated at 85° C. for 20 h. The reaction mixture was concentrated and then purified via column chromatography on silica gel (gradient elution with 0-100% (90:10:1, dichloromethane/methanol/ammonium hydroxide)-dichloromethane) to afford 5-bromo-N-(2-morpholinoethyl)pyrimidin-2-amine as a light yellow solid. MS m/z=288 [M+H]+. Calc'd for C10H15BrN4O: 287.

reactant | 2-chloro-5-bromopyrimidine | 5.17 mmol, 1.00 g | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | N-(2-aminoethyl)morpholine | 6.20 mmol, 0.808 g | NCCN1CCOCC1 | C6H14N2O
reactant | diisopropylethylamine | 6.20 mmol, 1.1 mL, 0.801 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-bromo-N-(2-morpholinoethyl)pyrimidin-2-amine | BrC=1C=NC(=NC1)NCCN1CCOCC1 | C10H15BrN4O
